US06225311B1
A solution of 1.50 g of methyl 2-[{[4-(2-butynyloxy)phenyl]-sulfonyl}(methyl)amino]-2-phenylacetate and 1.50 g of KOH in a methanol/water/THF mixture was stirred at room temperature for 18 hours. The solution was then evaporated, the residue was dissolved in water and then acidified with 2N hydrochloric acid, and the precipitate was collected and dried to give 1.07 g of 2-[{[4-(2-butynyloxy)- phenyl]sulfonyl}(methyl)amino]-2-phenylacetic acid as colorless crystals,

reactant | methyl 2-[{[4-(2-butynyloxy)phenyl]-sulfonyl}(methyl)amino]-2-phenylacetate | 1.50 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C1=CC=CC=C1)C | C20H21NO5S
reactant | KOH | 1.50 g | [OH-].[K+]
solvent | methanol water THF | CO.O.C1CCOC1
product | 2-[{[4-(2-butynyloxy)- phenyl]sulfonyl}(methyl)amino]-2-phenylacetic acid | 1.07 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)O)C1=CC=CC=C1)C | C19H19NO5S
